US07414061B2
3-(4-Fluoro-phenyl)-5-methyl-4-[1-(3-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole (72.9 mg, 0.3 mmol) was converted, using 3-trifluoromethylphenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (13 mg, 11%) which was obtained as an off-white solid. MS: m/e=388.6 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole | 0.3 mmol, 72.9 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H10FN3O
reactant | 3-trifluoromethylphenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 3-(4-Fluoro-phenyl)-5-methyl-4-[1-(3-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 13 mg, 11% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC(=CC=C1)C(F)(F)F)C | C20H13F4N3O
